### PR TITLE
[Merged by Bors] - feat: define weakly locally compact spaces

### PR DESCRIPTION
**Pull request by urkud**
---

- [x] depends on: #6769

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/SubsetProperties.lean [hunk 1]
```diff
@@ -1173,11 +1208,10 @@ theorem exists_compact_subset [LocallyCompactSpace α] {x : α} {U : Set α} (hU
   exact ⟨K, h3K, mem_interior_iff_mem_nhds.2 h1K, h2K⟩
 #align exists_compact_subset exists_compact_subset
 
-/-- In a locally compact space every point has a compact neighborhood. -/
-theorem exists_compact_mem_nhds [LocallyCompactSpace α] (x : α) : ∃ K, IsCompact K ∧ K ∈ 𝓝 x :=
-  let ⟨K, hKc, hx, _⟩ := exists_compact_subset isOpen_univ (mem_univ x)
-  ⟨K, hKc, mem_interior_iff_mem_nhds.1 hx⟩
-#align exists_compact_mem_nhds exists_compact_mem_nhds
```
Comment (ADedecker) [inline Mathlib/Topology/SubsetProperties.lean:1180]: Could you restore this `#align` to point to the new version?

File: Mathlib/Topology/SubsetProperties.lean [hunk 2]
```diff
@@ -1077,9 +1077,44 @@ instance Quotient.compactSpace {s : Setoid α} [CompactSpace α] : CompactSpace
   Quot.compactSpace
 #align quotient.compact_space Quotient.compactSpace
 
+/-- We say that a topological space is a *weakly locally compact space*,
+if each point of this space admits a compact neighborhood. -/
```
Comment (ADedecker) [inline Mathlib/Topology/SubsetProperties.lean:1081]: Could you mention this definition in the module docstring, as well as in the docstring of `LocallyCompactSpace`?

File: Mathlib/Topology/UniformSpace/CompactConvergence.lean [hunk 3]
```diff
@@ -412,9 +411,9 @@ compact space.
 For non-T2 spaces, the assumption `LocallyCompactSpace α` is stronger than we need and in fact
 the `←` direction is true unconditionally. See `ContinuousMap.tendstoLocallyUniformly_of_tendsto`
 and `ContinuousMap.tendsto_of_tendstoLocallyUniformly` for versions requiring weaker hypotheses. -/
```
Comment (ADedecker) [inline Mathlib/Topology/UniformSpace/CompactConvergence.lean:413]: Could you fix this docstring? The assumption is now exactly the right one for the `→` direction, right?

File: Mathlib/Topology/UniformSpace/CompactConvergence.lean [hunk 4]
```diff
@@ -398,11 +398,10 @@ theorem tendsto_of_tendstoLocallyUniformly (h : TendstoLocallyUniformly (fun i a
 implies locally uniform convergence.
 
 See also `ContinuousMap.tendsto_iff_tendstoLocallyUniformly`, especially for T2 spaces. -/
```
Comment (ADedecker) [inline Mathlib/Topology/UniformSpace/CompactConvergence.lean:400]: I can't select it, but could you change `If every point has a compact neighbourhood` to `In a weakly locally compact space` in this docstring?

File: Mathlib/Topology/Separation.lean [hunk 5]
```diff
@@ -60,8 +60,8 @@ This file defines the predicate `SeparatedNhds`, and common separation axioms
   these results are part of the typeclass inference system (e.g. `Embedding.t2Space`)
 * `Set.EqOn.closure`: If two functions are equal on some set `s`, they are equal on its closure.
 * `IsCompact.isClosed`: All compact sets are closed.
-* `locally_compact_of_compact_nhds`: If every point has a compact neighbourhood,
-  then the space is locally compact.
+* `WeaklyLocallyCompactSpace.locallyCompactSpace`: A weakly locally compact Hausdorff space
+  is locally compact.
```
Comment (ADedecker) [inline Mathlib/Topology/Separation.lean:64]: Could you remind here the definition of weakly locally compact space, for discoverability?

File: Mathlib/Topology/Separation.lean [hunk 6]
```diff
@@ -1425,31 +1425,31 @@ theorem locally_compact_of_compact_nhds [T2Space α] (h : ∀ x : α, ∃ s, s 
...
-theorem exists_open_superset_and_isCompact_closure [LocallyCompactSpace α] [T2Space α] {K : Set α}
-    (hK : IsCompact K) : ∃ V, IsOpen V ∧ K ⊆ V ∧ IsCompact (closure V) := by
+/-- In a weakly locally compact T₂ space,
+every compact set has an open neighborhood with compact closure. -/
+theorem exists_open_superset_and_isCompact_closure [WeaklyLocallyCompactSpace α] [T2Space α]
+    {K : Set α} (hK : IsCompact K) : ∃ V, IsOpen V ∧ K ⊆ V ∧ IsCompact (closure V) := by
   rcases exists_compact_superset hK with ⟨K', hK', hKK'⟩
-  refine'
-    ⟨interior K', isOpen_interior, hKK', isCompact_closure_of_subset_compact hK' interior_subset⟩
+  refine' ⟨interior K', isOpen_interior, hKK',
```
Comment (ADedecker) [inline Mathlib/Topology/Separation.lean:1441]:
```suggestion
  exact ⟨interior K', isOpen_interior, hKK',
```
Untested

**Review by ADedecker — COMMENTED** [review]
Thanks a lot! Most of my comments are docstring fixes, this looks very good.

**Comment by ADedecker** [comment]
Thanks!
bors merge
